US06080754
4-Bromo-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine (0.354 g, 1.0 mmol), prepared in example 75, step 2, was dissolved in 15 ml of 1,2-dimethoxyethane under a nitrogen atmosphere. tetrakistriphenylphospine palladium(0) (0.06 g, 0.052 mmol) was added, and the mixture was stirred for 10 minutes. Sodium carbonate (0.65 g, 6.13 mmol) and water 2 ml was added and stirring was continued for 10 minutes. 4-Benzyloxyphenyl boronic acid (0.91 g, 3.99 mmol) dissolved in 10 ml of hot 1,2-dimethoxyethane was added and the mixture was heated to 85-90° C. for 18 hours. The suspension was poured into 100 ml of water and the organic material was extracted into dichloromethane (1×100 ml and 3×50 ml). The combined organic layers were washed with brine, dried overmagnesium sulfate, and evaporated. The crude product was purified by column chromatography over silica gel 60, using 3% of diethyl ether in hexane as the eluent to afford a yellow solid, which was recrystallised from dichloromethane and petroleum ether, to afford 0.31 g (68%) of 4-(4-benzyloxyphenyl)-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine as yellow crystals. MS(SP): m/z 457 (M+). 1H--NMR (CDCl3, 400 MHz) δ: 1.48 (t, 3 H); 3.25 (q, 2 H); 3.91 (s, 3 H); 5.14 (s, 2 H); 7.07-7.13 (m,4 H); 7.31-7.51 (m, 5 H); 7.67 (dd, 1 H); 7.70 (s, 1 H); 7.73-7.82 (m, 4 H); 7.92 (d, 1 H); 8.13 (d, 1 H). Analysis: Calculated for C32H27N1O2 : C, 84.00; H, 5.95; N, 3.06%; Found: C, 84.07; H, 6.02; N, 2.90%.

reactant | 4-Bromo-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 1.0 mmol, 0.354 g | BrC=1C=C2C(=C(C3=CC=CC1N23)CC)C2=CC=C(C=C2)OC | C19H16BrNO
reactant | Sodium carbonate | 6.13 mmol, 0.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 ml | O | H2O
reactant | 4-Benzyloxyphenyl boronic acid | 3.99 mmol, 0.91 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | water | 100 ml | O | H2O
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 4-(4-benzyloxyphenyl)-1-ethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 0.31 g, 68% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C2C(=C(C3=CC=CC1N23)CC)C2=CC=C(C=C2)OC | C32H27NO2
